US06573388B1
To a solution of N-(1,4-dichloro-2(S)-hydroxy-3(R)-butyl)phthalimide (48.6 mg, 0.169 mmol) in isopropanol (1 mL) was added 80% hydrazine monohydrate (11.3 L, 0.187 mmol) at 0° C. under N2. After 16 h, solvent was removed under reduced pressure. The resulting solid was dissolved with MeOH (1 mL). To the reaction mixture was added 35% HCl (21.0 μl, 0.240 mmol) at rt. After 16 h, solvent was removed under reduced pressure. The residue was dissolved with THF (0.5 mL) and water (0.5 mL). To the reaction mixture was added (Boc)2O (46.5 mg, 0.213 mmol) and NEt3 (49.5 L, 0.355 mmol) at 0° C. After 16 h, the reaction mixture was diluted with water (1 mL) and extracted with EtOAc (2 mL×3). The combined organic layers were washed with brine (1 mL), dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure and column chromatography (25% EtOAc in n-Hex) gave 2(R)-(t-butyloxycarbonyl)amino-1,4-dichloro-3(S)-hydroxybutane (32.7 mg) as a white solid.

reactant | N-(1,4-dichloro-2(S)-hydroxy-3(R)-butyl)phthalimide | 0.169 mmol, 48.6 mg | ClC[C@H]([C@H](CCl)N1C(C=2C(C1=O)=CC=CC2)=O)O | C12H11Cl2NO3
reactant | hydrazine monohydrate | 0.187 mmol, 11.3 L | O.NN
reactant | HCl | 0.240 mmol, 21.0 μl | Cl | ClH
reactant | (Boc)2O | 0.213 mmol, 46.5 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NEt3 | 0.355 mmol, 49.5 L | CCN(CC)CC | C6H15N
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
solvent | water | 1 mL | O | H2O
product | 2(R)-(t-butyloxycarbonyl)amino-1,4-dichloro-3(S)-hydroxybutane | 32.7 mg, Yield: 75% yield | C(C)(C)(C)OC(=O)N[C@@H](CCl)[C@@H](CCl)O | C9H17Cl2NO3
